US05635197
(+)-(4aR)-(10bR)-4-methyl-8-(1-naphthyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis(triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 1-naphthylboronic acid (134 mg, 0.78 mmol), 0.65 mL of 1M sodium hydroxide solution and 2 mL of benzene, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with dichloromethane (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), followed by recrystallization from ethyl acetate to give 116 mg (50%) of the title compound as a white solid. mp 159°. FDMS: m/e=355. α[D]589 =+60.00 (c=0.50, chloroform).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 1-naphthylboronic acid | 0.78 mmol, 134 mg | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium hydroxide | 1M, 0.65 mL | [OH-].[Na+]
reactant | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(1-naphthyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 116 mg, 50% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC=CC1=CC=CC=C31)C)=O | C25H25NO
